US09359359B2
To a solution of tert-butyl 2-(1-hydroxycyclopentyl)acetate (0.5 g, 2.5 mmol) in THF (10 mL) was added lithium aluminium hydride (0.28 g, 7.5 mmol) portionwise at 0° C. The reaction was stirred at room temperature overnight. The mixture was partitioned between ethyl acetate and water. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a crude product which was purified by column chromatography eluting with petroleum ether/ethyl acetate (1:1) to give 1-(2-hydroxyethyl)cyclopentanol (0.33 g, 100%) as a yellow oil.

reactant | tert-butyl 2-(1-hydroxycyclopentyl)acetate | 2.5 mmol, 0.5 g | OC1(CCCC1)CC(=O)OC(C)(C)C | C11H20O3
reactant | lithium aluminium hydride | 7.5 mmol, 0.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-hydroxyethyl)cyclopentanol | 0.33 g, 100% | OCCC1(CCCC1)O | C7H14O2
